US04116962
By substituting 1-[2-benzoylthio-3-methoxybutanoyl]L-proline for the 1-[3-acetylthio-2-(methylthiomethyl)-propanoyl]-L-proline in the procedure of Example 17, 1-[2-mercapto-3-methoxybutanoyl]-L-proline is obtained.

reactant | 1-[2-benzoylthio-3-methoxybutanoyl]L-proline | C(C1=CC=CC=C1)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)C(C)OC | C17H21NO5S
reactant | 1-[3-acetylthio-2-(methylthiomethyl)-propanoyl]-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CSC | C12H19NO4S2
product | 1-[2-mercapto-3-methoxybutanoyl]-L-proline | SC(C(=O)N1[C@H](C(=O)O)CCC1)C(C)OC | C10H17NO4S
